US09120822B2
10% Palladium on activated carbon (285 mg, 2.68 mmol, 1.0 eq) is added at room temperature to a stirred solution of [trans-4-(6-methoxy-3,4-dihydro-2H-1-oxa-4,5,9-triaza-phenanthren-3-yl)-cyclohexyl]-carbamic acid benzyl ester (1.20 g, 2.68 mmol, 1.0 eq) in methanol (80 mL) and tetrahydrofuran (8 mL). The resulting mixture is stirred under hydrogen flow (1 bar) at 40° C. for 16 hours. The catalyst is then removed by filtration and the solution is concentrated to afford trans-4-(6-methoxy-3,4-dihydro-2H-1-oxa-4,5,9-triaza-phenanthren-3-yl)-cyclohexylamine as a yellow solid (620 mg, 74% yield) which is directly engaged in the next step.

reactant | [trans-4-(6-methoxy-3,4-dihydro-2H-1-oxa-4,5,9-triaza-phenanthren-3-yl)-cyclohexyl]-carbamic acid benzyl ester | 2.68 mmol, 1.20 g, 1.0 eq | C(C1=CC=CC=C1)OC(N[C@@H]1CC[C@H](CC1)C1COC=2C=NC3=CC=C(N=C3C2N1)OC)=O | C25H28N4O4
catalyst | Palladium on activated carbon | 2.68 mmol, 285 mg, 1.0 eq | [Pd] | Pd
solvent | methanol | 80 mL | CO | CH4O
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | trans-4-(6-methoxy-3,4-dihydro-2H-1-oxa-4,5,9-triaza-phenanthren-3-yl)-cyclohexylamine | 620 mg, 74% yield | COC=1N=C2C=3NC(COC3C=NC2=CC1)[C@@H]1CC[C@H](CC1)N | C17H22N4O2
